US03970454
3. Preparation of 7-propyl-8-hydroxyquinoline
Into a stainless steel autoclave, one introduces 93 g of 7-allyl-8-hydroxyquinoline (i.e. 0.5 mole), 250 ml of methanol, and 3 g of 5% palladium on charcoal. The hydrogenation is carried out under a 4 kg/cm2 hydrogen pressure. After absorption of a sufficient quantity of hydrogen and cooling, one filters off the catalyst, removes the solvent by distillation under normal pressure, and then distills the residue under high vacuum. The 7-propyl-8-hydroxyquinoline distills at 105°-106°C at a pressure of 0.25 mm Hg. One collects 78 g of a light yellow liquid. Yield = 84.5%.

reactant | 7-allyl-8-hydroxyquinoline | 0.5 mole, 93 g | C(C=C)C1=CC=C2C=CC=NC2=C1O | C12H11NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
solvent | methanol | 250 ml | CO | CH4O
product | 7-propyl-8-hydroxyquinoline | Yield = 84.5% | C(CC)C1=CC=C2C=CC=NC2=C1O | C12H13NO
